Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Aphasia, Right facial droop
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Pt is an ___ yr F w/ PMH of HTN and HLD who presented for new 
aphasia. Pt was LKW at 1pm by daughter. Daughter was later 
called at 7pm by pt who appeared to not be making any sense. Out 
of concern, daughter returned home and found pt to be severely 
aphasia and to have abnormal gait. She brought pt to OSH ED 
(___) where Code Stroke was called w/ NIHSS of 9. No tPA 
was administered due to being outside of window but CTA as read 
by radiologist suggested L MCA occlusion at bifurcation. She was 
thus sent to ___ for endovascular evaluation. This procedure 
was noted performed due to pt being out of standard window for 
tPA, NIHSS<10 for ___ protocol, thrombus appearing more distal 
than appropriate for intervention, and NIHSS improving on repeat 
ED evaluations.
 
 
Past Medical History:
HTN
HLD
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ON ADMISSION
============
Vitals:  T: 97.2 HR: 72  BP: 168/72  RR: 18   SaO2: 94% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, at least oriented to person. 
Expressive aphasia noted w/ fluctuating degree of comprehension. 
Naming and repetition impaired. Mild dysarthria noted. No 
evidence of hemineglect. Pt following simple midline and 
appendicular commands.  

- Cranial Nerves: PERRL 4->2 brisk. VF full to threat. EOMI on 
gross exam. Subtle R NLFF. Palate elevation symmetric. Tongue 
midline.

- Motor:  Normal bulk and tone. No tremor or asterixis. Able to 
lift all extremities to antigravity spontaneously with mild 
drift in RLE

 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response mute bilaterally 

- Sensory: Grimaced to noxious in all extremities. 

- Coordination/Gait: Deferred (pt unable to adequately 
participate in ataxia exam)

On discharge:
===============

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, at least oriented to person. No 
expressive aphasia noted. Comprehension intact. Naming and 
repetition were intact. No evidence of hemineglect. Pt following 
simple midline and appendicular commands.  

- Cranial Nerves: PERRL 4->2 brisk. VF full to threat. EOMI on 
gross exam. Subtle R NLFF. Palate elevation symmetric. Tongue 
midline.

- Motor:  Normal bulk and tone. No tremor or asterixis. Able to 
lift all extremities to antigravity spontaneously with mild 
drift in RLE

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response mute bilaterally 

- Sensory: Grimaced to noxious in all extremities. 

- Coordination/Gait: Deferred 

 
Pertinent Results:
Admission

___ 10:20PM BLOOD WBC-10.2* RBC-4.41 Hgb-14.0 Hct-42.4 
MCV-96 MCH-31.7 MCHC-33.0 RDW-13.6 RDWSD-48.4* Plt ___
___ 10:20PM BLOOD Neuts-66.6 ___ Monos-7.2 Eos-0.5* 
Baso-0.5 Im ___ AbsNeut-6.79* AbsLymp-2.54 AbsMono-0.73 
AbsEos-0.05 AbsBaso-0.05
___ 10:20PM BLOOD ___ PTT-29.4 ___
___ 10:20PM BLOOD Glucose-106* UreaN-29* Creat-0.8 Na-138 
K-3.9 Cl-96 HCO3-26 AnGap-16
___ 10:20PM BLOOD Calcium-9.6 Phos-3.1 Mg-2.0

Stroke Labs

___ 05:25AM BLOOD Triglyc-95 HDL-36* CHOL/HD-4.1 LDLcalc-91
___ 05:25AM BLOOD TSH-1.1
___ 05:25AM BLOOD %HbA1c-5.4 eAG-108

Discharge

___ 05:25AM BLOOD WBC-9.1 RBC-4.19 Hgb-13.5 Hct-39.9 MCV-95 
MCH-32.2* MCHC-33.8 RDW-13.8 RDWSD-48.4* Plt ___
___ 05:25AM BLOOD Glucose-86 UreaN-17 Creat-0.5 Na-142 
K-3.7 Cl-102 HCO3-28 AnGap-12
___ 05:25AM BLOOD Calcium-9.1 Phos-2.6* Mg-2.1 Cholest-146

CT brain perfusion ___
Occlusion of the distal left M1 segment (on outside imaging) 
with mild 
hypodense changes noted in the in the left MCA distribution on 
this current 
CT.  No intracranial hemorrhage on the limited imaging. 

MRI HEAD  ___
1. Evidence of a few foci of early subacute infarcts left 
insula. 
2. FLAIR hyperintense signal within few left insular MCA 
branches, may 
indicate slow flow, possibly from more proximal narrowing. 
3. Evidence of severe chronic small vessel ischemic changes. 

ECHO ___
No intracardiac source of thromboembolism identified. Preserved 
biventricular systolic function. Mild mitral regurgitatoin. 
Normal pulmonary artery systolic pressure.  

 
Brief Hospital Course:
Pt is an ___ year old female with past medical history of 
hypertension and hyperlipidemia who presented as Code Stroke for 
new symptoms of aphasia and mild right facial droop. 
Neurological exam was remarkable for expressive aphasia, mild 
right facial droop, right lower extremity drift, and incorrect 
answers to orientation questions. on repeat testing, she had 
right arm/leg hemiparesis in UMN pattern. No tPA was 
administered due to being outside of window but CTA as read by 
radiologist suggested left MCA occlusion at bifurcation. MRI 
showed subacute appearing infarcts in the insula. During 
hospitalization patient was started on clopidogrel and 
atorvastatin to prevent further strokes. Patient was also 
evaluated for physical therapy who recommended rehabilitation. 

Transitional Issues 
-Please call to set up the appointment for a Holter ___ 
of Hearts (Instructions attached) 
-Stroke and PCP ___ as above

New Medications
-Atorvastatin 40 mg
-Clopidogrel 75 mg

Stopped medications
-Simvastatin 20 mg
-Aspirin 81 mg
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 25 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. TraZODone 100 mg PO QHS:PRN insomnia 
5. LORazepam 0.5-1 mg PO DAILY:PRN anxiety 
6. valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Clopidogrel 75 mg PO DAILY  
3.  Heparin 5000 UNIT SC BID 
To be taken while at ___ only if not mobilized. Does not 
require on discharge from rehab.  
4.  Atenolol 25 mg PO BID  
5.  LORazepam 0.5-1 mg PO DAILY:PRN anxiety  
6.  TraZODone 100 mg PO QHS:PRN insomnia  
7.  valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Stroke
-Hyperlipidemia 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
  
You were hospitalized due to symptoms of facial droop and  
trouble speaking resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 

the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
 so damage to the brain from being deprived of its blood supply  
can result in a variety of symptoms. 
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
 factors. Your risk factors are:  
 High blood pressure
 High cholesterol

We are changing your medications as follows:  
 We discontinued your Aspirin 81mg 
 We started you on clopidogrel 75 mg to prevent your risk of 
strokes
 We discontinue your simvastatin 20mg daily
 We started you on atorvastatin 40 mg

We are providing you with an order for an exam called ___ of 
Hearts" that is a monitor to look for an abnormal heart rhythm 
called atrial fibrillation that can put you at risk for strokes 
and will require treatment if identified. Please follow the 
instructions below in the order to make the appointment. 
  
Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician  
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___